US04973600
A mixture of 6.25 g of (1-methylpyrazol-5-yl)-(2,3-dichloro-4,5-dimethoxyphenyl)-methanone and 70 ml of aqueous 47% hydrobromic acid is refluxed for 3 hours and the reaction mixture is evaporated to remove solvent. The residue is dissolved in aqueous 10% sodium hydroxide solution and the solution is adjusted to pH 3-4 by addition of acetic acid. The mixture is extracted with ethyl acetate. The extract is washed with an aqueous saturated sodium chloride solution, dried and evaporated to remove solvent under reduced pressure. The residue is crystalized from isopropyl ether and the crystals are collected by filtration to give 4.77 g of (1-methylpyrazol-5-yl)-(2,3-dichloro-4,5-dihydroxyphenyl)-methanone. Yield: 84%

reactant | (1-methylpyrazol-5-yl)-(2,3-dichloro-4,5-dimethoxyphenyl)-methanone | 6.25 g | CN1N=CC=C1C(=O)C1=C(C(=C(C(=C1)OC)OC)Cl)Cl | C13H12Cl2N2O3
reactant | hydrobromic acid | Br | BrH
product | (1-methylpyrazol-5-yl)-(2,3-dichloro-4,5-dihydroxyphenyl)-methanone | 4.77 g, Yield: 84% | CN1N=CC=C1C(=O)C1=C(C(=C(C(=C1)O)O)Cl)Cl | C11H8Cl2N2O3
